US06489481B1
Isonipecotic acid (5 g) was dissolved in 10% sodium carbonate (100 ml) and cooled to 0° C. Then benzylformate (6.6 ml) was added dropwise and stirred at 0° C. for 30 minutes. The reaction mixture was then removed to an ice bath and stirred for 18 hours. The reaction mixture was then poured into 2 M hydrochloric acid (100 ml). Ethyl acetate (300 ml) was added and the organic layer taken and washed with hydrochloric acid (2×100 ml) and saturated sodium chloride (75 ml). The organic layer was dried over magnesium sulphate, filtered and the solvent evaporated to form CBZ-isonipecotic acid.

reactant | Isonipecotic acid | 5 g | N1CCC(C(=O)O)CC1 | C6H11NO2
reactant | benzylformate | 6.6 ml | C(C1=CC=CC=C1)C(=O)[O-]
reactant | sodium carbonate | 100 ml | C([O-])([O-])=O.[Na+].[Na+]
product | CBZ-isonipecotic acid | C(=O)(OCC1=CC=CC=C1)N1CCC(C(=O)O)CC1 | C14H17NO4
